US04464361
3,3,5-Trimethoxy-4-chloro-2-pyrrolidinone (500 mg) was evenly admixed with adenosine 2',3',5'-triacetate (940 mg) and the mixture was melted and reacted at 170° C. for 1 hour. The reaction mixture was subjected to silica gel column chromatography using hexane-acetone (1:1) as the eluent to obtain N6 -(2-oxo-3,3-dimethoxy-4-chloro-5-pyrrolidinyl)adenosine 2',3',5'-triacetate (860 mg). This product was dissolved in ammonia-saturated methanol (40 ml) and allowed to stand at 5° C. for 15 hours, at the end of which time the solvent was distilled off. The residue was washed with chloroform and the insolubles were subjected to silica gel column chromatography using chloroform-methanol (10:1) as the eluent. The active fractions were pooled and concentrated under reduced pressure to give N6 -(2-oxo-3,3-dimethoxy-4-chloro-5-pyrrolidinyl)adenosine (590 mg).

reactant | 3,3,5-Trimethoxy-4-chloro-2-pyrrolidinone | 500 mg | COC1(C(NC(C1Cl)OC)=O)OC | C7H12ClNO4
reactant | adenosine 2',3',5'-triacetate | 940 mg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)COC(C)=O)N1C=NC=2C(N)=NC=NC12 | C16H19N5O7
solvent | hexane acetone | CCCCCC.CC(=O)C
product | N6 -(2-oxo-3,3-dimethoxy-4-chloro-5-pyrrolidinyl)adenosine 2',3',5'-triacetate | 860 mg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)COC(C)=O)N1C=NC=2C(NC3C(C(C(N3)=O)(OC)OC)Cl)=NC=NC12 | C22H27ClN6O10
